US05409943
(b) N-[3-(2-Chloro-6 fluorobenzyloxy)pyrid-2-yl]-N'-(4-nitrophenyl)guanidine
A mixture of yellow mercuric oxide (1.26g, 0.006 mol), N-[3-(2-chloro-6 fluorobenzyloxy)pyrid-2-yl]-N'-(4-nitrophenyl)thiourea (2.08g, 0.005 mol) and methanolic ammonia solution (40 ml) was stirred for 24 hours at room temperature, then heated under reflux for 30 min. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent and recrystallisation from ethanol gave the desired product. Yield 1.16 g (58%), m.p 180°-182 ° C.

reactant | N-[3-(2-chloro-6 fluorobenzyloxy)pyrid-2-yl]-N'-(4-nitrophenyl)thiourea | 0.005 mol, 2.08g | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C19H14ClFN4O3S
reactant | ammonia | 40 ml | N | H3N
product | N-[3-(2-Chloro-6 fluorobenzyloxy)pyrid-2-yl]-N'-(4-nitrophenyl)guanidine | ClC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C19H15ClFN5O3
